*NGSPICE simulation script lab1
*Group 23
*
.options savecurrents

Vs 1 0 0DC sin(0V 1V 1k 0 0 0)
R1 1 2 1.00676538952k
R2 3 2 2.03303206695k
R3 2 5 3.03391315228k
R4 5 0 4.00312807132k
R5 5 6 3.13101052342k
R6 0 9 2.0938993245k
R7 7 8 1.01774389701k
Ve 9 7 0
Gb 6 3 (2,5) 7.2727641018m
Hc 5 8 Ve 8.17006533463k
Ca 6 8 1.03536137445u
.op
.ic v(6)=5.852787 V(8)=-3.074760

.model group 23

.control
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0
op

echo "**************************"
echo "Transient analysis"
echo "**************************"
tran 1e-5 20e-3

hardcopy Teste_4.ps v(6) v(1)
echo Teste_4_FIG

quit
.endc

.end
